US04374137
2'-Acetylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
To a cooled solution of spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (8.0 g) and triethylamine 4.1 g) in dichloromethane (35 ml) is added dropwise acetyl chloride (3.2 g) in dichloromethane (20 ml). After stirring at ambient temperature for 20 hours, the reaction mixture is washed with water (2x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Removal of the solvent yields a solid (6.2 g), of which 2.5 g is recrystallized from ethyl acetate to yield 1.4 g (56%) of product as a powder, mp 141°-142°.

reactant | spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 8.0 g | C1NCC2(C3=CC=CC=C13)OC1=C(C2)C=CC=C1 | C16H15NO
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.2 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2'-Acetylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 6.2 g | C(C)(=O)N1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C18H17NO2
